US04057647
1 g. of 3-(2',4'-difluoro-4-biphenylyl)butyronitrile, 3 ml. of n-hexanol and 0.1 g. of concentrated H2SO4 are heated under reflux for 48 hours. 3 ml of water are added and the mixture is heated under reflux for 48 hours more and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butyronitrile | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC#N)C | C16H13F2N
reactant | n-hexanol | C(CCCCC)O | C6H14O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water | 3 ml | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
